datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([O:61][P:10]([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([P+:10]([O:61]C1=CC=CC=C1)([O:71]C1=CC=CC=C1)[O:81]C1=CC=CC=C1)[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CC1=C[C:61]2=[C:62](C=C1)[NH:12][C:11](C)=[N:10]2.CN1CC[C:20](=[O:21])CC1>>CC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[C:11](C)[N:10]2[C:20]1([O-:21])CCN(C)CC1 10,11=10,20;12=11,12;20,21=21"
"COC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2.C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15>>COC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N+:10]2[CH:20](C)C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54 10=20;20,21=21"
CCCC[NH2:10].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CCCC[NH2+:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10=20
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=CC=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1.Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23]>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=CC=C2)[CH:20]2[C:21](Cl)=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32]2=[O:33])[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1CC[N:72]([C:61]([S-:10])=[S:62])C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([S:10][C:61](=[S:62])[N:72]2CCCC2)([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C[Si:63](C)(C)[O:12][C:11](C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)=[CH2:10].[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C[Si:63](C)(C)[O+:12]=[C:11](C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)[CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C[C:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].C[C:10]([C:11]#[N:12])([S:20]C(F)(F)F)[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CO[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CO[C:10]1([CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92] 10=20
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](C2=CC=C(C)C=C2)[CH:63]=[C:62]1C(N)=O>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1.[H][C:11]1=[CH:12][CH:13]=[N+:14](C2=CC=C(C)C=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.CCCC[Sn](CCCC)(CCCC)[C:63]1=[CH:62][CH:11]=[CH:10][S:64]1>>CCCC[Sn](CCCC)(CCCC)[C:63]1=[CH:62][CH+:11][CH:10]([CH:20]2CCC[C:22]([O-:23])=[CH:21]2)[S:64]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)C[C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])C1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>CC1(C)C[C:71](=[O:72])[C:10]([I+:11]C2=CC=CC=C2)([CH:20]([N:21](C)C)[C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)[C:91](=[O:92])C1 10,11=10,20;20,21=21"
"C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1.[CH:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1.[CH:10]([C:11]#[N:12])([F:20])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1 10,11=10,20;12=11,12;20,21=21"
"CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64](C)=[C:63](C)[S:62]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64](C)=[C:63](C)[S:62]1)[CH:20]1N2N=N[N:35]=[C:34]2[C:33]([N+](=O)[O-])=[CH:32][C:21]1=[N+:22]([O-])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
